US06811996B1
Boc-Gly-Gly-Phe-Gly-OH (SEQ ID NO. 1) (575 mg), HOSu (182 mg), and DCC (326 mg) were dissolved in DMF (20 ml), and the solution was stirred for 30 minutes. The resulting solution was added with a solution of p-toluenesulfonic acid salt of 5-aminopentanoic acid benzyl ester (500 mg) and triethylamine (0.184 ml) dissolved in DMF (10 ml), and the mixture was stirred at room temperature for three days. The reaction mixture was concentrated, and the residue was purified by column chromatography (CH2Cl2:MeOH=20:1) to obtain 560 mg of Boc-Gly-Gly-Phe-Gly-NH—(CH2)4—COOBzl (SEQ ID NO. 1). The Boc-Gly-Gly-Phe-Gly-NH—(CH2)4—COOBzl (SEQ ID NO. 1) (560 mg) was dissolved in methanol (60 ml) containing 50% of water, and the solution was added with 5% Pd—C (water content; 50%, 1.5 g) and stirred overnight under hydrogen at ordinary pressure. After the catalyst was removed from the reaction mixture by filtration, the mixture was concentrated to dryness to obtain 300 mg of Boc-Gly-Gly-Phe-Gly-NH—(CH2)4—COOH (SEQ ID NO. 1).

reactant | Boc-Gly-Gly-Phe-Gly-OH | N(CC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C20H28N4O7
reactant | HOSu | 182 mg | ON1C(=O)CCC1=O | C4H5NO3
reactant | DCC | 326 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 5-aminopentanoic acid benzyl ester | 500 mg | C(C1=CC=CC=C1)OC(CCCCN)=O | C12H17NO2
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.184 ml | C(C)N(CC)CC | C6H15N
product | Boc-Gly-Gly-Phe-Gly-NH—(CH2)4—COOBzl | 560 mg | N(CC(=O)NCC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)NCCCCC(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C32H43N5O8
